US05015661
rac-2-{[3-Acetyloxy-4-(phenylmethoxy)phenyl]ethynyl}-3,4-dihydro-2,5,7,8-tetramethyl-2H-1-benzopyran-6-ol.
This compound was obtained by coupling rac-3,4-dihydro-2-ethynyl-2,5,7,8-tetramethyl-2H-1-benzopyran-6-ol with 5-iodo-2-(phenylmethoxy)phenyl acetate under the conditions described in Example 26. The crude product was chromatographed over the 50 fold amount of silica gel using methylene chloride. The combined fractions were evaporated and the residue was crystallized from methanol after treatment with charcoal and was recrystallized from ether/ hexane for analysis to give colorless crystals with m.p. 117°-120°.

reactant | rac-3,4-dihydro-2-ethynyl-2,5,7,8-tetramethyl-2H-1-benzopyran-6-ol | C(#C)C1(OC2=C(CC1)C(=C(C(=C2C)C)O)C)C | C15H18O2
reactant | 5-iodo-2-(phenylmethoxy)phenyl acetate | C(C)(=O)OC1=C(C=CC(=C1)I)OCC1=CC=CC=C1 | C15H13IO3
product | rac-2-{[3-Acetyloxy-4-(phenylmethoxy)phenyl]ethynyl}-3,4-dihydro-2,5,7,8-tetramethyl-2H-1-benzopyran-6-ol | C(C)(=O)OC=1C=C(C=CC1OCC1=CC=CC=C1)C#CC1(OC2=C(CC1)C(=C(C(=C2C)C)O)C)C | C30H30O5
